US05990142
2C 8-Nitro-4-oxo-4H-1-benzopyran-2-carboxamide
Gas ammonia was bubbled for 30 minutes in a solution of ethyl 8-nitro-4-oxo-4H-benzopyran-2-carboxylate (2.109 g, 8.02 mmol) in anhydrous ethanol (50 ml) and anhydrous tetrahydrofuran (50 ml). After that the mixture was evaporated to dryness and the resulting solid residue was suspended in concentrated hydrochloric acid (20 ml) stirring at room temperature for 4 h. Then the mixture was diluted with water, the solid was recovered by filtration, washed repeatedly with water and dried under vacuum on phosphorous pentoxyde, to obtain 1.515 g of the title product (81% yield).

reactant | ammonia | N | H3N
reactant | ethyl 8-nitro-4-oxo-4H-benzopyran-2-carboxylate | 8.02 mmol, 2.109 g | [N+](=O)([O-])C1=CC=CC=2C(C=C(OC21)C(=O)OCC)=O | C12H9NO6
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 8-Nitro-4-oxo-4H-1-benzopyran-2-carboxamide | 1.515 g, 81% yield | [N+](=O)([O-])C1=CC=CC=2C(C=C(OC21)C(=O)N)=O | C10H6N2O5
